US07553845B2
methyl 6-(methoxymethyl)nicotinate
5.1 g (0.022 mol) of methyl 6-(bromomethyl)nicotinate [described in J. Med. Chem.; (2002), 45(23), 5005-5022], dissolved in 60 mL of methanol are added at room temperature to a solution of sodium methoxide obtained by adding 1 g (0.044 atom/g) of sodium to 40 mL of methanol. The reaction medium is then heated under reflux for 2 hours. The reaction medium is concentrated under vacuum and the residue is taken up in an aqueous solution of potassium hydrogen sulfate and dichloromethane. The organic phase is separated by decantation, dried over sodium sulfate and evaporated to dryness. 3.4 g of a yellow solid are obtained.

reactant | methyl 6-(bromomethyl)nicotinate | 0.022 mol, 5.1 g | BrCC1=NC=C(C(=O)OC)C=C1 | C8H8BrNO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 1 g | [Na] | Na
solvent | methanol | 60 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | methyl 6-(methoxymethyl)nicotinate | 3.4 g, Yield: 85% | COCC1=NC=C(C(=O)OC)C=C1 | C9H11NO3
